US07368572B2
A solution of benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (BOP, 249 mg, 0.51 mmol) and indole-2-carboxylic acid (83 mg, 0.51 mmol) in DMF (5 ml) was treated with triethylamine (0.21 ml, 1.5 mmol). After 20 min, methyl 4-(1-amino-cyclohex-1-yl-ethynyl)-benzoate hydrochloride (150 mg, 0.51 mmol) was added and the reaction mixture was stirred for additional 16 h. The reaction mixture was diluted with ethyl acetate (50 ml) and the organic layer was washed with water (25 ml), 1M aqueous HCl (25 ml), saturated sodium bicarbonate (25 ml), and brine, dried over sodium sulfate, and concentrated in vacuo to provide crude methyl 4-[1-(1H-indol-2-yl-carbonylamino)-cyclohex-1-yl-ethynyl]-benzoate which was used without further purification.

reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 0.51 mmol, 249 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | indole-2-carboxylic acid | 0.51 mmol, 83 mg | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | triethylamine | 1.5 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | methyl 4-(1-amino-cyclohex-1-yl-ethynyl)-benzoate hydrochloride | 0.51 mmol, 150 mg | Cl.NC1(CCCCC1)C#CC1=CC=C(C(=O)OC)C=C1
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | methyl 4-[1-(1H-indol-2-yl-carbonylamino)-cyclohex-1-yl-ethynyl]-benzoate | N1C(=CC2=CC=CC=C12)C(=O)NC1(CCCCC1)C#CC1=CC=C(C(=O)OC)C=C1 | C25H24N2O3
